US04031226
A mixture of 1.82 parts of 1-(4-chlorobenzoyl)aziridine, 2.32 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one, 10.8 parts of benzene an 1.6 parts of methanol is stirred and refluxed for 1.50 hours. The reaction mixture is cooled and upon scratching, the product solidifies. It is filtered off, washed with benzene and crystallized from 2-propanol, yielding 1.53 parts of 4-chloro-N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)ethyl]benzamide; mp. 200.6° C.

reactant | 1-(4-chlorobenzoyl)aziridine | ClC1=CC=C(C(=O)N2CC2)C=C1 | C9H8ClNO
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | 4-chloro-N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)ethyl]benzamide | ClC1=CC=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C1 | C22H25ClN4O2
